US04082772
α-{[N-(3,4-dimethoxyphenethyl) -N-methylamino]methyl}-5-methyl-2-thiophenemethanol (ArCHOR1CHR2NR3R4 ; Ar = 5-methyl-2-thienyl, R1 and R2 = H, R3 = CH3 and R4 = 3,4-dimethoxyphenethyl)
A solution of α-{[(3,4-dimethoxyphenethyl)amino]methyl}-5-methyl-2-thiophenemethanol (2.29 g, 0.007 mole), described in Example 16, and the lower alkyl halide, iodomethane (9.94 g, 0.07 mole), in 70 ml benzene is stirred at 25° C for 3 days. The mixture is concentrated under reduced pressure. The residual oil is taken up in methanol and made alkaline with 10% NaOH. The mixture is extracted wth chloroform. The extract is washed with water, dried (K2CO3) and concentrated to give a yellow oil, which is purified by chromatography to give the title compound; nmr (CDCl3) δ 2.41 (s, 3H), 2.46 (s, 3H), 2.6 - 2.8 (m, 6H), 3.68 (s, 1H), 3.83 (s, 3H), 3.88 (s, 3H), 4.88 (t, 1H), 6.6 - 6.9 (m, 5H).

reactant | α-{[(3,4-dimethoxyphenethyl)amino]methyl}-5-methyl-2-thiophenemethanol | 0.007 mole, 2.29 g | COC=1C=C(CCNCC(O)C=2SC(=CC2)C)C=CC1OC | C17H23NO3S
reactant | iodomethane | 0.07 mole, 9.94 g | IC | CH3I
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
product | α-{[N-(3,4-dimethoxyphenethyl) -N-methylamino]methyl}-5-methyl-2-thiophenemethanol | COC=1C=C(CCN(C)CC(O)C=2SC(=CC2)C)C=CC1OC | C18H25NO3S
